US05221753
5.0 g of magnesium were introduced into 100 ml of anhydrous tetrahydrofuran. 25 g of 4-chlorotetrahydropyran were added dropwise under reflux under a nitrogen atmosphere, and the mixture was refluxed for 2 hours. A solution of 23.5 g of 1-(dimethylamino)but-1-en-3-one in 20 ml of anhydrous tetrahydrofuran was subsequently added dropwise to the reaction mixture, cooled to from 0° to 5° C., at a rate such that the internal temperature did not exceed 50° C., and the mixture was stirred at room temperature for a further 2 hours. For work-up, the reaction mixture was poured into a mixture of ice and dilute HCl, and extracted 3 times with 200 ml of chloroform, and the extracts were washed with saturated sodium chloride solution and dried over MgSO4. Removal of the solvent gave 24.0 g (75%) of 1-(4-tetrahydropyranyl)but-1-en-3-one having a boiling point of 117° C./10 mmHg.

reactant | magnesium | 5.0 g | [Mg] | Mg
reactant | 4-chlorotetrahydropyran | 25 g | ClC1CCOCC1 | C5H9ClO
reactant | 1-(dimethylamino)but-1-en-3-one | 23.5 g | CN(C=CC(C)=O)C | C6H11NO
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(4-tetrahydropyranyl)but-1-en-3-one | 24.0 g, 75% | O1CCC(CC1)C=CC(C)=O | C9H14O2
